US08912188B2
To a suspension of sodium hydride (12.0 g, 500.00 mmol) in anhydrous DMF (500 mL) was added 4-(trifluoromethyl)phenol (35.0 g, 215.90 mmol) at 0° C. After hydrogen evolution had ceased, 2-bromo-1,1-diethoxyethane (55.0 g, 279.09 mmol) was added. The reaction was heated at 120° C. overnight. The mixture was poured into ice-water (2 L), extracted with ethyl acetate (3×150 mL), washed with 1N sodium hydroxide (3×100 mL) and brine (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum to give the residue, which was purified by silica gel column chromatography eluting with 1% ethyl acetate in petroleum ether to afford 1-(2,2-diethoxyethoxy)-4-(trifluoromethyl)benzene as oil (8.0 g, 13%).

reactant | sodium hydride | 500.00 mmol, 12.0 g | [H-].[Na+]
reactant | 4-(trifluoromethyl)phenol | 215.90 mmol, 35.0 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | hydrogen | [H][H] | H2
reactant | 2-bromo-1,1-diethoxyethane | 279.09 mmol, 55.0 g | BrCC(OCC)OCC | C6H13BrO2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 1-(2,2-diethoxyethoxy)-4-(trifluoromethyl)benzene | 8.0 g, 13% | C(C)OC(COC1=CC=C(C=C1)C(F)(F)F)OCC | C13H17F3O3
